Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vaginal bleeding
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ G1P0 at 25w0d with known posterior previa who presents with 
first episode of spotting in this pregnancy. No ctx, LOF. +FM.
 
Past Medical History:
___ ___ tri us
Labs Rh+/Abs-/RI/RPRNR/HBsAg-/HIV-/GBS unknown
Genetics LR ERA
FFS normal, complete posterior previa
GLT not yet done
Issues
1. post previa on FFS 
 
OBHx:
G1
 
GynHx: hx LGSIL ___, no f/u. 
 
PMH: denies
 
PSH: denies
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: T 98.6, HR 108, BP 113/71
GENERAL: A&O, comfortable
ABDOMEN: soft, gravid, nontender
GU: no bleeding on pad
EXT: no calf tenderness
 
TOCO no ctx
FHT 150/mod var/+accels/-decels

On discharge:
afebrile, VSS
Gen: NAD
Abd: soft, nontender, gravid
___: without edema
 
Pertinent Results:
n/a
 
Brief Hospital Course:
___ y/o G1P0 with posterior previa diagnosed at 20 weeks admitted 
to the antepartum service at 25w0d with small spotting. On 
admission, she was hemodynamically stable with no further 
bleeding. Speculum exam was deferred given her spotting had 
resolved. Fetal testing was reassuring. She was admitted to the 
antepartum service for observation. She had an ultrasound in the 
CMFM which revealed persistent complete previa. She was given 
two doses of betamethasone and had no active bleeding so she was 
discharged home in good condition on hospital day 2 with 
bleeding precautions and outpatient followup. 
 
Medications on Admission:
prenatal vitamins
 
Discharge Medications:
1. Prenatal Vitamins 1 TAB PO DAILY 
2. Ranitidine 150 mg PO BID:PRN heartburn 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
posterior placenta previa, spotting

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 

You were admitted to the antepartum service after having some 
spotting, which has since resolved. You received a complete 
course of steroids and had reassuring monitoring during your 
stay. You had an ultrasound done which showed a persistent 
placenta previa covering the cervix. Your doctors feel ___ are 
safe to go home with outpatient followup.

Please call your doctor right away if you notice any additional 
vaginal bleeding or start having contractions.

Your zantac prescription has been sent to the ___ on ___ 
___.
 
Followup Instructions:
___